US06444829B1
(step 12) To 200 mg (0.3 mmol) (2S,4R)-1-(Naphthalene-2-sulfonyl)-4-tritylsulfanyl-pyrrolidine-2-carboxylic acid N′-benzyl-hydrazide in 3 ml CH2Cl2 were added 60 μl (0.35 mmol, 1.2 eq) N,N-diisopropylethylamine, 72.5 mg (0.35 mmol, 1.2 eq) 4-methoxybenzene sulfonylchloride and 22.5 mg (0.12 eq) DMAP-poly at 0° C. The suspension was shaken at RT for 3 days, additional 25 μl (0.15 mmol, 0.5 eq) N,N-diisopropylethylamine, 31 mg (0.15 mmol, 0.5 eq) 4-methoxybenzene sulfonylchloride and 22.5 mg (0.12 eq) DMAP-poly were added and the reaction was continued for a day. After filtration and washing of the resin with CH2Cl2, the organic phase was concentrated and the crude material purified by flash chromatography yielding 152 mg (61%) (2S,4R)-1-(Naphthalene-2-sulfonyl)-4-tritylsulfanyl-pyrrolidine-2-carboxylic acid N′-benzyl-N′-(4-methoxy-benzenesulfonyl)-hydrazide which was directly subjected to the following reaction.

reactant | (2S,4R)-1-(Naphthalene-2-sulfonyl)-4-tritylsulfanyl-pyrrolidine-2-carboxylic acid N′-benzyl-hydrazide | 0.3 mmol, 200 mg | C(C1=CC=CC=C1)NNC(=O)[C@H]1N(C[C@@H](C1)SC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)S(=O)(=O)C1=CC2=CC=CC=C2C=C1 | C41H37N3O3S2
reactant | N,N-diisopropylethylamine | 0.35 mmol, 60 μl, 1.2 eq | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 4-methoxybenzene sulfonylchloride | 0.35 mmol, 72.5 mg, 1.2 eq | COC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO3S
reactant | N,N-diisopropylethylamine | 0.15 mmol, 25 μl, 0.5 eq | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 4-methoxybenzene sulfonylchloride | 0.15 mmol, 31 mg, 0.5 eq | COC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO3S
solvent | CH2Cl2 | 3 ml | C(Cl)Cl | CH2Cl2
product | (2S,4R)-1-(Naphthalene-2-sulfonyl)-4-tritylsulfanyl-pyrrolidine-2-carboxylic acid N′-benzyl-N′-(4-methoxy-benzenesulfonyl)-hydrazide | 152 mg, 61% | C(C1=CC=CC=C1)N(NC(=O)[C@H]1N(C[C@@H](C1)SC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)S(=O)(=O)C1=CC2=CC=CC=C2C=C1)S(=O)(=O)C1=CC=C(C=C1)OC | C48H43N3O6S3
